US06426362B1
diosmin;
hesperidin, (S)-7-[[6-O-(6-Deoxy-α-L-mannopyranosyl)-β-D-glucopyranosyl]oxy]-2,3-dihydro-5-hydroxy-2-(3-hydroxy-4-methoxyphenyl)-4H-1-benzopyran-4-one; hesperetin 7-rhamnoglucoside; cirantin; hesperetin-7-rutinoside;

reactant | hesperidin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC=3C=C(C4=C(C3)O[C@@H](CC4=O)C=5C=CC(=C(C5)O)OC)O)O)O)O)O)O)O | C28H34O15
reactant | (S)-7-[[6-O-(6-Deoxy-α-L-mannopyranosyl)-β-D-glucopyranosyl]oxy]-2,3-dihydro-5-hydroxy-2-(3-hydroxy-4-methoxyphenyl)-4H-1-benzopyran-4-one | [C@@H]1([C@H](O)[C@H](O)[C@@H](O)[C@@H](O1)C)OC[C@@H]1[C@H]([C@@H]([C@H]([C@@H](O1)OC1=CC2=C(C(C[C@H](O2)C2=CC(=C(C=C2)OC)O)=O)C(=C1)O)O)O)O | C28H34O15
reactant | hesperetin 7-rhamnoglucoside | CC1C(C(C(C(O1)OCC2C(C(C(C(O2)OC3=CC(=C4C(=O)CC(OC4=C3)C5=CC(=C(C=C5)OC)O)O)O)O)O)O)O)O | C28H34O15
reactant | cirantin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=CC(=C4C(=O)C[C@H](OC4=C3)C5=CC(=C(C=C5)OC)O)O)O)O)O)O)O)O | C28H34O15
product | diosmin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC=3C=C(C4=C(C3)OC(=CC4=O)C=5C=CC(=C(C5)O)OC)O)O)O)O)O)O)O | C28H32O15
